US05124347
A mixture of 5-methyl-2-oxindole (2.94 g, 0.02 mol), 3,5-di-tertiary-butyl-4-hydroxybenzoldehyde (4.68 g, 0.02 mol), and anyydrous NaOAc (5.75 g, 0.07 mol) in glacial acetic acid (100 mL) was heated to reflux for 18 hours. The cooled reaction mixture was poured into ice-water mixture when a yellow product precipitated out. It was recrystallized from CH2Cl2 --CH3OH-iso-Pr2O to give the analytical sample. Yield 2.16 g (28.7%), mp 230°-234° C.

reactant | 5-methyl-2-oxindole | 0.02 mol, 2.94 g | CC=1C=C2CC(NC2=CC1)=O | C9H9NO
reactant | NaOAc | 0.07 mol, 5.75 g | CC(=O)[O-].[Na+]
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | CH3OH iso-Pr2O | CO.O(C(C)C)C(C)C | InChI=1S/C6H14O.CH4O/c1-5(2)7-6(3)4;1-2/h5-6H,1-4H3;2H,1H3
